US04851519
In an analogous manner, from 2(RS)-(2,4-dichlorophenoxy)propionyl chloride (prepared from the acid) and 5'-amino-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine, there was obtained 5'-[2(RS)-(2,4-dichlorophenoxy)propionamido]-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine of melting point 121°-124° C.

reactant | 2(RS)-(2,4-dichlorophenoxy)propionyl chloride | ClC1=C(OC(C(=O)Cl)C)C=CC(=C1)Cl | C9H7Cl3O2
reactant | 5'-amino-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OCC | C13H21N3O4
product | 5'-[2(RS)-(2,4-dichlorophenoxy)propionamido]-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine | ClC1=C(OC(C(=O)NC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(=C2)CC)OCC)C)C=CC(=C1)Cl | C22H27Cl2N3O6
